US06133258
The reaction procedure of Example 11 was followed except that 939 mg (3.24 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 26 mg of lithium hydride and 551 mg of propyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 669 mg of 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-propyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (62%, recrystallized from a mixture of ether and hexane) as a low polarity substance and 112 mg of 2-[N-(4-chlorophenyl)-N-propylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (10%, recrystallized from ether) as a high polarity substance.

reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.24 mmol, 939 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | lithium hydride | 26 mg | [H-].[Li+]
reactant | propyl iodide | 551 mg | C(CC)I | C3H7I
product | 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-propyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 669 mg | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CCC)=O)C=CC=N2 | C16H14ClN3OS
